US04252950
p-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride
To a solution of 500 mg. of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-chloro-3-cephem-4-carboxylate in 6 ml. of methylene chloride was added 95 mg. of dry pyridine and 237 mg. of phosphorus pentachloride. The reaction mixture was stirred at room temperature for 1.5 hours, was thereafter cooled in an ice-water bath to about 5° C. and 0.6 ml. of iso-butyl alcohol were added. On continued cooling and stirring the reaction product, p-nitrobenzyl 7-amino-'-chloro-3-cephem-4-carboxylate hydrochloride, crystallized from the reaction mixture. The product was filtered, washed with cold methylene chloride and dried to yield 200 mg. of the crystalline product melting with decomposition at about 168° C.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-chloro-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16ClN3O6S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | iso-butyl alcohol | C(C(C)C)O | C4H10O
product | p-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | InChI=1S/C14H12ClN3O5S.ClH/c15-9-6-24-13-10(16)12(19)17(13)11(9)14(20)23-5-7-1-3-8(4-2-7)18(21)22;/h1-4,10,13H,5-6,16H2;1H/t10?,13-;/m1./s1
